US04031186
Step B -- 3-(2,4,5-Trimethylanilino)thiopropionamide
To a cold solution of 3-(2,4,5-trimethylanilino)propionitrile (18.9 g.) in dimethylaminoethanol (40 g.) is added hydrogen sulfide (3.5 g.). After three days at room temperature, the mixture is poured on ice and the resulting solid is collected by filtration and recrystallized from benzene to afford 14 g. of 3-(2,4,5-trimethylolanilino)thiopropionamide; m. p. 109.5°-111° C.

reactant | 3-(2,4,5-trimethylanilino)propionitrile | 18.9 g | CC1=C(NCCC#N)C=C(C(=C1)C)C | C12H16N2
reactant | hydrogen sulfide | 3.5 g | S | H2S
reactant | 3-(2,4,5-trimethylolanilino)thiopropionamide | C(O)C1=C(NCCC(=S)N)C=C(C(=C1)CO)CO | C12H18N2O3S
solvent | dimethylaminoethanol | 40 g | CN(C)CCO | C4H11NO
product | 3-(2,4,5-Trimethylanilino)thiopropionamide | CC1=C(NCCC(=S)N)C=C(C(=C1)C)C | C12H18N2S
